US04069250
Methoxy-carbonyl-5-nitrobenzoyl chloride [G. B. Hoey, et al., J. Med. Chem, 6, 24 (1963)] is added to a cold stirred slurry of N-methyl-tris(hydroxymethyl)-methylamine and potassium carbonate in dimethylformamide to form a solution of N-methyl-5-nitro-N-[tris(hydroxymethyl)methyl]isophthalamic acid, methyl ester.

reactant | Methoxy-carbonyl-5-nitrobenzoyl chloride | COC(=O)C1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C9H6ClNO5
reactant | N-methyl-tris(hydroxymethyl)-methylamine | CNC(CO)(CO)CO | C5H13NO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | N-methyl-5-nitro-N-[tris(hydroxymethyl)methyl]isophthalamic acid, methyl ester | CN(C(C=1C=C(C(=O)OC)C=C(C1)[N+](=O)[O-])=O)C(CO)(CO)CO | C14H18N2O8
